US05789590
The 2-amino-6-chloropurine having an acicular or irregular-shaped crystal form can be prepared by hydrolyzing 2-formylamino-6-chloropurine or a salt thereof in water in the presence of an acid or an alkali, followed by neutralizing the resulting reaction mixture. For example, the 2-amino-6-chloropurine having an acicular or irregular-shaped crystal form can be produced by a conventional method as disclosed in JP-6-157530. Specifically, dimethylformamide, phosphorus oxychloride and guanine are added to 1,2-dichloroethane, and the mixture is stirred with heating. After cooling, the reaction mixture is added to water, to which sodium carbonate is added to adjust the pH of the mixture to 4. Then, the aqueous layer is separated therefrom, which is then neutralized by adding sodium hydroxide thereto. The precipitated crystal of 2-dimethylaminomethyleneamino-6-chloropurine is filtered off and added to an aqueous solution of acetic acid. The solution is stirred with heating to precipitate crystals. The precipitated crystals are filtered off and washed with water to give crystals of 2-formylamino-6-chloropurine acetate. The crystals of 2-formylamino-6-chloropurine acetate are then dissolved in an aqueous solution of a metal hydroxide such as sodium hydroxide with stirring. The solution is neutralized with hydrochloric acid, acetic acid or sulfuric acid to precipitate crystals. The precipitated crystals are filtered off to obtain acicular or irregular-shaped white crystals of 2-amino-6-chloropurine.

reactant | 2-amino-6-chloropurine | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | 2-formylamino-6-chloropurine | C(=O)NC1=NC(=C2NC=NC2=N1)Cl | C6H4ClN5O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | guanine | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-formylamino-6-chloropurine acetate | C(C)(=O)O.C(=O)NC1=NC(=C2NC=NC2=N1)Cl | InChI=1S/C6H4ClN5O.C2H4O2/c7-4-3-5(9-1-8-3)12-6(11-4)10-2-13;1-2(3)4/h1-2H,(H2,8,9,10,11,12,13);1H3,(H,3,4)
